US08211908B2
To 50 mL of chloroform, 5.00 g of 3-bromo-1,5-naphthyridin was dissolved, 6.40 g of m-chloroperbenzoic acid was added thereto, and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture, a 5% aqueous sodium thiosulfate solution and chloroform were added, and the organic layer was separated, washed sequentially with a 5% aqueous sodium hydroxide solution and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Chromatorex-NH made by Fuji Silysia Chemical Ltd., and an eluent of ethyl acetate:hexane=1:1 to obtain 1.95 g of 3-bromo-1,5-naphthyridin-5-oxide as a light yellow solid.

reactant | 3-bromo-1,5-naphthyridin | 5.00 g | BrC=1C=NC2=CC=CN=C2C1 | C8H5BrN2
reactant | m-chloroperbenzoic acid | 6.40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-1,5-naphthyridin-5-oxide | 1.95 g | BrC=1C=NC=2C=CC=[N+](C2C1)[O-] | C8H5BrN2O
